US06288059B1
4-(triphenylmethoxy)-(2R)-(3,4-dichlorophenyl)-1-[N-(chloroacetyl)-N-(cyclohexylmethyl)amino]-2-butanol
p-Toluenesulfonyl chloride (2.03g, 10.7 mmol) was added to a solution of (2R)-(3,4-dichlorophenyl)-4-(triphenylmethoxy)butan-1,2-diol (3.51 g, 7.11 mmol), which was prepared in Example 12(a), in pyridine (17 ml). The mixture was stirred at room temperature overnight. To the reaction mixture, water was added and it was extracted with ethyl acetate. The organic layer was dried over anydrous magnesium sulfate and then the solvent was distilled off under reduced pressure. The residue was dissolved in acetonitrile (50 ml) and lithium perchlorate trihydrate (3.42 g. 21.3 mmol) and cyclohexylmethylamine (2.78 ml, 21.3 mmol) were added to the solution. The mixture was stirred at 100° C. overnight. Ethyl acetate was added to the reaction mixture and it was washed with a saturated aqueous solution of sodium chloride. The organic layer was dried over anhydrous magnesium sulfate and then the solvent was distilled off under reduced pressure. A half of the residue by weight was dissolved in methylene chloride (30 ml). To this solution, triethylamine (2.48 ml, 17.8 mmol) and chloroacetyl chloride (1.42 ml, 17.8 mmol) were added with ice-cooling. The mixture was stirred at 0° C. for 1 hour. To the reaction mixture, methylene chloride was added, the organic layer was washed with water and then with a saturated aquoeus solution of sodium chloride and was dried over anhydrous magnesium sulfate. After distillation under reduced pressure, the resulting residue was purified by flash chromatography on a silica gel column using n-hexane/ethyl acetate=20/1−10/1 as an eluant to afford the title compound (1.49 g, 63%).

reactant | p-Toluenesulfonyl chloride | 10.7 mmol, 2.03g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (2R)-(3,4-dichlorophenyl)-4-(triphenylmethoxy)butan-1,2-diol | 7.11 mmol, 3.51 g | ClC=1C=C(C=CC1Cl)C([C@@H](CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)O | C29H26Cl2O3
reactant | lithium perchlorate trihydrate | 21.3 mmol, 3.42 g | O.O.O.Cl(=O)(=O)(=O)[O-].[Li+]
reactant | cyclohexylmethylamine | 21.3 mmol, 2.78 ml | C1(CCCCC1)CN | C7H15N
reactant | triethylamine | 17.8 mmol, 2.48 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 17.8 mmol, 1.42 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | pyridine | 17 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-(triphenylmethoxy)-(2R)-(3,4-dichlorophenyl)-1-[N-(chloroacetyl)-N-(cyclohexylmethyl)amino]-2-butanol | 1.49 g, 63% | C1(=CC=CC=C1)C(OCC[C@H](C(N(CC1CCCCC1)C(CCl)=O)C1=CC(=C(C=C1)Cl)Cl)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H40Cl3NO3
